US05834493
i) 4-chloro-butyraldehyde-O-phenyl-oxime
A mixture of 2-(3-chloro-propyl)-[1,3]-dioxolane (5.7 g; 0.038 mol), THF (50 ml) and aqueous acid chloride (1/1) was stirred at room temperature for 24 hours. O-phenyl-hydroxylamine hydrochloride (5 g; 0.034 mol) was then added and the resulting mixture was stirred at room temperature for 48 hours. The reaction mixture was concentrated under vacuum. Then the product was extracted with methylene chloride. The organic extract was dried (Mg SO4) and evaporated under vacuum. After purification by Flash Chromatography on silica gel using as eluent hexane/ethyl acetate (95/5), the desired compound was obtained.

reactant | 2-(3-chloro-propyl)-[1,3]-dioxolane | 0.038 mol, 5.7 g | ClCCCC1OCCO1 | C6H11ClO2
reactant | O-phenyl-hydroxylamine hydrochloride | 0.034 mol, 5 g | Cl.C1(=CC=CC=C1)ON
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-chloro-butyraldehyde-O-phenyl-oxime | C1(=CC=CC=C1)ON=CCCCCl | C10H12ClNO
